US09145415B2
To a solution of methyl 2-cyano-4-methoxy-2-(2-methoxyethyl)butanoate (1.13 g) synthesized according to the method described in European Journal of Organic Chemistry, 2005, vol. 20, pp. 4313-4321 in tetrahydrofuran (10 mL), 1.0 mol/L aqueous sodium hydroxide (20 mL) was added at room temperature, and the mixture was stirred at the same temperature for 7 hours. To the reaction mixture, hexane and tert-butyl methyl ether were added. The aqueous layer was separated, and ethyl acetate and 1.0 mol/L aqueous hydrochloric acid were added. The organic layer was separated, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 2-cyano-4-methoxy-2-(2-methoxyethyl)butyric acid (G19, 957 mg).

reactant | methyl 2-cyano-4-methoxy-2-(2-methoxyethyl)butanoate | 1.13 g | C(#N)C(C(=O)OC)(CCOC)CCOC | C10H17NO4
reactant | sodium hydroxide | 1.0 mol/L, 20 mL | [OH-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-cyano-4-methoxy-2-(2-methoxyethyl)butyric acid | C(#N)C(C(=O)O)(CCOC)CCOC | C9H15NO4
